US04020177
Step A: Preparation of Benzyl 8-Acetyl-12-hydroxy-13-benzyloxytridecanoate
Sodium hydride (0.04 mole) is added in portions with stirring to benzyl alcohol (25 ml.). To the resulting solution, ethyl 8-acetyl-12,13-epoxytridecanoate (0.02 mole) is added and the mixture allowed to stand 18 hours at 55°-60°. The reaction mixture is then cooled and treated with water. The organic layer is separated and dried over magnesium sulfate. Excess benzyl alcohol is removed by distillation in vacuo by means of the rotary evaporator at oil pump pressure. The residue consists mainly of the title compound and is used in the next step without purification.

reactant | Sodium hydride | 0.04 mole | [H-].[Na+]
reactant | benzyl alcohol | 25 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | ethyl 8-acetyl-12,13-epoxytridecanoate | 0.02 mole | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC1CO1 | C17H30O4
solvent | water | O | H2O
product | Benzyl 8-Acetyl-12-hydroxy-13-benzyloxytridecanoate | C(C)(=O)C(CCCCCCC(=O)OCC1=CC=CC=C1)CCCC(COCC1=CC=CC=C1)O | C29H40O5
